US08071588B2
A mixture of N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,1-cyclopropanedicarboxamide (55 mg, 0.088 mmol), 1-methylpiperazine (9.80 μL, 0.088 mmol), sodium triacetoxyborohydride (37.4 mg, 0.177 mmol) and acetic acid (6.07 μL, 0.106 mmol) in DCM (3 mL) was stirred at room temperature overnight. The reaction mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were concentrated under vacuum to give the crude residue. It was purified by reverse phase hplc with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined, washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({6-methyl-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide as a solid (29 mg, 46.4%). LC-MS m/z 707 (M+H)+, 0.77 min (ret time).

reactant | N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,1-cyclopropanedicarboxamide | 0.088 mmol, 55 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2(CC2)C(=O)N)CC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C36H42N6O4
reactant | 1-methylpiperazine | 0.088 mmol, 9.80 μL | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.177 mmol, 37.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.106 mmol, 6.07 μL | C(C)(=O)O | C2H4O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({6-methyl-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide | 29 mg, 46.4% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2(CC2)C(=O)N)CC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CN2CCN(CC2)C)CC | C41H54N8O3
